US08110687B2
3-tert-butyl-5-(pyrrolidin-1-ylmethyl)benzoic acid (382 mg, 0.00146 mol) was stirred in THF (40 mL, 0.4 mol) at 0° C. for 15 minutes. To this cold solution was added diphenylphosphonic azide (0.41 mL, 0.0019 mol) and TEA (0.73 mL, 0.0053 mol). The reaction mixture was allowed to warm to rt and stir for 2 hours. The solvents were evaporated (low heat) and the residue was redissolved in EtOAc. The organic solution was washed with sat. NaHCO3 solution and brine then dried over Na2SO4, filtered, and evaporated (low heat). tert-Butyl alcohol (35.8 mL, 0.374 mol) was added to the residue and the reaction mixture was heated overnight at 85° C. under an atmosphere of nitrogen. The mixture was concentrated and the residue taken up in EtOAc. The organic solution was washed with NaOH and brine, dried over MgSO4,filtered and concentrated. The residue was purified by column chromatography using basic alumina to give tert-butyl [3-tert-butyl-5-(pyrrolidin-1-ylmethyl)phenyl]carbamate. LCMS ES+ 333.

reactant | 3-tert-butyl-5-(pyrrolidin-1-ylmethyl)benzoic acid | 0.00146 mol, 382 mg | C(C)(C)(C)C=1C=C(C(=O)O)C=C(C1)CN1CCCC1 | C16H23NO2
reactant | THF | 0.4 mol, 40 mL | C1CCOC1 | C4H8O
reactant | diphenylphosphonic azide | 0.0019 mol, 0.41 mL | C1=CC=C(C=C1)OP(=O)(N=[N+]=[N-])OC2=CC=CC=C2 | C12H10N3O3P
reactant | tert-Butyl alcohol | 0.374 mol, 35.8 mL | C(C)(C)(C)O | C4H10O
product | tert-butyl [3-tert-butyl-5-(pyrrolidin-1-ylmethyl)phenyl]carbamate | C(C)(C)(C)C=1C=C(C=C(C1)CN1CCCC1)NC(OC(C)(C)C)=O | C20H32N2O2
